US04820821
5.0 g (24.1 millimoles) of 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride in 50 ml of propionyl chloride were refluxed for 20 hours, while stirring. The mixture was cooled and then filtered under suction, and the residue was recrystallized from ethanol/methyl tert.-butyl ether. 2.6 g (41% of theory) of 1,4-dihydro-1-phenyl-4-(propionylimino)-pyridazine hydrochloride were isolated as slightly yellowish crystals of melting point 214°-215° C.

reactant | 1,4-dihydro-4-imino-1-phenylpyridazine hydrochloride | 24.1 millimoles, 5.0 g | Cl.N=C1C=NN(C=C1)C1=CC=CC=C1
reactant | propionyl chloride | 50 ml | C(CC)(=O)Cl | C3H5ClO
product | 1,4-dihydro-1-phenyl-4-(propionylimino)-pyridazine hydrochloride | 2.6 g, 41% | Cl.C1(=CC=CC=C1)N1N=CC(C=C1)=NC(CC)=O | InChI=1S/C13H13N3O.ClH/c1-2-13(17)15-11-8-9-16(14-10-11)12-6-4-3-5-7-12;/h3-10H,2H2,1H3;1H
